US07825238B2
a) 4-(2-N-benzyloxycarbonyl-L-valyloxyethyl)-toluene
To a cooled solution of 4-methylphenylethanol-2 (5.0 g, 36.7 mmole), 4-4 dimethylaminopyridine (0.98 g, 8 mmole) and N-benzyloxycarbonyl-L-valine (10.05 g, 40 mmole) in dichloromethane (120 ml) was added dicyclohexyl-carbodiimide (9.1 g, 44 mmole) and the mixture was stirred overnight at room temperature. The mixture was cooled and the urethane was filtered. The solution was evaporated under reduced pressure and ethyl acetate (250 ml) was added. The organic phase was washed twice with 5% acetic acid, 5% sodium hydrogencarbonate and water. The organic phase was dried with sodium sulfate and evaporated under reduced pressure. The product was isolated by silica gel column chromatography with toluene/acetone. Yield: 13.3 g=97%

reactant | dimethylaminopyridine | 8 mmole, 0.98 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | N-benzyloxycarbonyl-L-valine | 40 mmole, 10.05 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C(=O)O | C13H17NO4
reactant | dicyclohexyl-carbodiimide | 44 mmole, 9.1 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
product | 4-(2-N-benzyloxycarbonyl-L-valyloxyethyl)-toluene | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C(=O)OCCC1=CC=C(C=C1)C | C22H27NO4
